US05081271
b) m-Trimethylsilylaniline
m-Nitrotrimethylsilylbenzene (200 mg) was catalytically hydrogenated over Pd-C in 7.5 ml of benzene at atmospheric pressure for 40 minutes. The catalyst was filtered off and washed with benzene and dry MeOH, successively. The filtrate and washings were mixed and evaporated. The residue was purified by column chromatography on silica gel [eluent: methylene chloride] to give 169 mg of pale brown liquid.

reactant | m-Nitrotrimethylsilylbenzene | 200 mg | [N+](=O)([O-])C=1C=C(C=CC1)[Si](C)(C)C | C9H13NO2Si
solvent | benzene | 7.5 ml | C1=CC=CC=C1 | C6H6
catalyst | Pd-C | [Pd] | Pd
product | m-Trimethylsilylaniline | 169 mg | C[Si](C=1C=C(N)C=CC1)(C)C | C9H15NSi
